US07022825B2
B. (4S)-N-[(2S,3S,4S,5R)-2,4-dimethyl-3,5-dihydroxyheptanoyl]-4-benzyl-2-oxazolidinone
Tetramethylammonium triacetoxyborohydride (2.89 g) was dissolved in a mixture of acetic acid (11 ml) and acetonitrile (11 ml), stirred for 30 minutes at ambient temperature, then cooled to −15° C. before addition of (4S)-N-[(2S,4S,5R)-2,4-dimethyl-5-hydroxy-3-oxoheptanoyl]-4-benzyl-2-oxazolidinone (0.764 g). After stirring for 4 hours, 34 ml of 0.5 M sodium tartrate was added and stirring was continued for an additional 3 hours. After extraction with 3 portions of CH2Cl2, the organic phases were combined and dried over MgSO4. The solvent was removed under vacuum, and the crude product was evaporated 3 times from 50 ml of methanol to yield 0.644 g of product (84%).

reactant | Tetramethylammonium triacetoxyborohydride | 2.89 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.C[N+](C)(C)C
reactant | (4S)-N-[(2S,4S,5R)-2,4-dimethyl-5-hydroxy-3-oxoheptanoyl]-4-benzyl-2-oxazolidinone | 0.764 g | C[C@H](C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O)C([C@H]([C@@H](CC)O)C)=O | C19H25NO5
reactant | sodium tartrate | 0.5 M, 34 ml | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[Na+]
solvent | acetic acid | 11 ml | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 11 ml | C(C)#N | C2H3N
product | (4S)-N-[(2S,3S,4S,5R)-2,4-dimethyl-3,5-dihydroxyheptanoyl]-4-benzyl-2-oxazolidinone | 0.644 g, 84% | C[C@H](C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O)[C@H]([C@H]([C@@H](CC)O)C)O | C19H27NO5
